US06291465B1
To a solution of 1.53 g (6.26 mmol) (3,5-bis-trifluoromethyl-phenyl)-methanol in 15 ml N,N-dimethylformamide 0.30 g (7.52 mmol) sodiumhydride (60% dispersion in mineral oil) was added and the reaction mixture was stirred for 1 hr. After the addition of 1.27 g (6.26 mmol) 2-chloromethyl-biphenyl in 5 ml N, N-dimethylformamide at 0°, the reaction mixture was stirred for 3 hrs. at RT. The reaction mixture was distributed between 50 ml H2O, 50 ml brine and 50 ml CH2Cl2. The phases were separated, the aqueous layer washed twice with 50 ml CH2Cl2. The combined organic layers were dried (MgSO4), filtered and evaporated. The residue was purified by chromatography (SiO2, hexane/ethyl acetate 40:1) to give 1.25 g (47%) 2-(3,5-bis-trifluoromethyl-benzyloxymethyl)-biphenyl as a colorless oil, MS (EI):410 (M+).

reactant | (3,5-bis-trifluoromethyl-phenyl)-methanol | 6.26 mmol, 1.53 g | FC(C=1C=C(C=C(C1)C(F)(F)F)CO)(F)F | C9H6F6O
reactant | 2-chloromethyl-biphenyl | 6.26 mmol, 1.27 g | ClCC1=C(C=CC=C1)C1=CC=CC=C1 | C13H11Cl
reactant | H2O | 50 ml | O | H2O
reactant | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | N, N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | brine | 50 ml | [Cl-].[Na+].O
solvent | N,N-dimethylformamide | 7.52 mmol, 15 ml, 0.30 g | CN(C=O)C | C3H7NO
product | 2-(3,5-bis-trifluoromethyl-benzyloxymethyl)-biphenyl | 1.25 g, 47% | FC(C=1C=C(COCC2=C(C=CC=C2)C2=CC=CC=C2)C=C(C1)C(F)(F)F)(F)F | C22H16F6O
